US07973026B2
Step 3: Methyl 12-cyclohexyl-7H-thieno[2′,3′:4,5]pyrrolo[2,1-a][2]benzazepine-10-carboxylate
Methyl 4-allyl-6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate was dissolved in DCM (0.02M) and treated with Zhan catalyst (dichloro(5-chloro-2-isopropoxybenzylidene)(1,3-dimesityl-1,3-dihydro-2H-imidazol-2-ylidene)ruthenium; RC-301; 0.3 eq.) at 35° C. for 2 h. After removal of the solvent the residue was purified by chromatography (PE/EtOAc 14:1) to afford the title compound in 83% yield. 1H-NMR (400 MHz, CDCl3, 300 K, δ) 7.74 (s, 1H), 7.57-7.56 (m, 1H), 7.45-7.35 (m, 3H), 6.82 (d, 1H, J 10.4), 6.30-6.25 (m, 1H), 4.47 (bs, 2Hs), 3.93 (s, 3H), 2.83-2.76 (m, 1H), 1.85-1.29 (m, 10H); MS (ES+) m/z 378 (M+H)+.

reactant | Methyl 4-allyl-6-cyclohexyl-5-(2-vinylphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C(C=C)N1C2=C(C(=C1C1=C(C=CC=C1)C=C)C1CCCCC1)SC(=C2)C(=O)OC | C25H27NO2S
solvent | DCM | 0.02M | C(Cl)Cl | CH2Cl2
catalyst | dichloro(5-chloro-2-isopropoxybenzylidene)(1,3-dimesityl-1,3-dihydro-2H-imidazol-2-ylidene)ruthenium | Cl[Ru](=C1N(C=CN1C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C)(=CC1=C(C=CC(=C1)Cl)OC(C)C)Cl
product | Methyl 12-cyclohexyl-7H-thieno[2′,3′:4,5]pyrrolo[2,1-a][2]benzazepine-10-carboxylate | 83% yield | C1(CCCCC1)C=1C2=C(N3C1C1=C(C=CC3)C=CC=C1)C=C(S2)C(=O)OC | C23H23NO2S
